US04806549
3-Butyryl-4-chloro-8-methylquinoline (2.48 g, 10 mmol) and 2-chloroaniline (1.6 ml, 15 mmol) in dioxan (10 ml) were heated at reflux for 30 minutes, then allowed to cool. The product was filtered off, converted to free base, and recrystallised from methanol to give 3-butyryl-4-(2-chlorophenylamino)-8-methylquinoline (1.53 g), m.p. 130°-131°.

reactant | 3-Butyryl-4-chloro-8-methylquinoline | 10 mmol, 2.48 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)C | C14H14ClNO
reactant | 2-chloroaniline | 15 mmol, 1.6 ml | ClC1=C(N)C=CC=C1 | C6H6ClN
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(2-chlorophenylamino)-8-methylquinoline | 1.53 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)Cl)C | C20H19ClN2O
